US03968092
Example 1--2,4-Toluenedicarbamic acid, difurfuryl ester
To a solution of 522 g. (3 moles) of 2,4-toluenediisocyanate in 500 ml. of benzene under a nitrogen atmosphere is added a solution of 588 g. (6 moles) of furfuryl alcohol in 500 ml. of benzene at such a rate as to maintain the temperature below 50°C. The reaction is completed by refluxing for 3 hours (about 80°-90°C.) The reaction mixture is allowed to stand at room temperature overnight, during which time the product diurethane crystallizes. The material is collected by filtration, dried, and pulverized. The yield is 916 g of material (82.5% of theoretical) having a melting point of 154°-156°C.

reactant | 2,4-toluenediisocyanate | 3 moles | CC1=C(C=C(C=C1)N=C=O)N=C=O | C9H6N2O2
reactant | furfuryl alcohol | 6 moles | C(C1=CC=CO1)O | C5H6O2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2,4-Toluenedicarbamic acid, difurfuryl ester | C=1(C(=CC(=CC1)NC(=O)OCC1=CC=CO1)NC(=O)OCC1=CC=CO1)C | C19H18N2O6
